US06344449B1
1-[N2-(3,5-dichloro-D-tyrosyl)-N6-[(1,1-dimethylethoxy)carbonyl]-L-lysyl]-4-(4-pyridinyl)-piperazine
A solution of 6 g (7.9 mmol) of 1-[N2-[N-[(phenylmethoxy)carbonyl]-3,5-dichloro-D-tyrosyl]-N6-[(1,1-dimethylethoxy)carbonyl]-L-lysyl]-4-(4-pyridinyl)-piperazine in a mixture of 200 ml of methanol and 20 ml of aqueous 1 M potassium hydrogen sulphate solution was hydrogenated in the presence of 0.5 g palladium black as catalyst at room temperature under 3 bar of hydrogen pressure for 40 minutes. The catalyst was filtered off, the reaction mixture was evaporated to dryness in vacuo and the residue adjusted to a pH of about 10 by the addition of 2 ml of concentrated aqueous ammonia solution. The product was extracted several times with isopropanol, the combined isopropanel extracts were evaporated down in vacuo and the residue was purified by column chromatography (LiChroprep, Si60 particle size: 20-40 μm, Messrs. Merck (Darmstadt); eluant: methylene chloride/methanol/ammonia=350/75/75/10 (v/v/v/v)). 2.5 g (51% of theory) of a colourless amorphous solid substance were obtained.

reactant | 1-[N2-[N-[(phenylmethoxy)carbonyl]-3,5-dichloro-D-tyrosyl]-N6-[(1,1-dimethylethoxy)carbonyl]-L-lysyl]-4-(4-pyridinyl)-piperazine | 7.9 mmol, 6 g | C1(=CC=CC=C1)COC(=O)N[C@H](CC1=CC(=C(C(=C1)Cl)O)Cl)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N1CCN(CC1)C1=CC=NC=C1 | C37H46Cl2N6O7
reactant | potassium hydrogen sulphate | 1 M | S(=O)(=O)(O)[O-].[K+]
reactant | hydrogen | [H][H] | H2
solvent | methanol | 200 ml | CO | CH4O
catalyst | palladium black | 0.5 g | [Pd] | Pd
product | 1-[N2-(3,5-dichloro-D-tyrosyl)-N6-[(1,1-dimethylethoxy)carbonyl]-L-lysyl]-4-(4-pyridinyl)-piperazine | ClC=1C=C(C[C@@H](N)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N2CCN(CC2)C2=CC=NC=C2)C=C(C1O)Cl | C29H40Cl2N6O5
